US06680317B2
a) 2,3-Difluorophenylisothiocyanate
Into a solution of 2,3-difluoroaniline (1.0 g, 7.74 mmol) in 30 mL of toluene at room temperature, thiophosgene (0.91 mL, 11.6 mmol) and triethylamine (1.3 mL, 11.6 mmol) was added. The mixture was stirred at room temperature for 16 hours. The mixture was partitioned between ethyl acetate and water. The combined organic layer was then concentrated to give the desired product (910 mg, 68%). 1H NMR (CDCl3) δ 6.98 (m, 2H), 7.11 (m, 1H).

reactant | 2,3-difluoroaniline | 7.74 mmol, 1.0 g | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | thiophosgene | 11.6 mmol, 0.91 mL | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 11.6 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-Difluorophenylisothiocyanate | 910 mg, 68% | FC1=C(C=CC=C1F)N=C=S | C7H3F2NS
